US08664238B2
Preparation of Homophthalic Anhydride (IIIa)
2 g (11.1 mmol) of homophthalic acid was dissolved in 30 ml toluene, and 1.6 ml (16.7 mmol) of acetic anhydride was added. The mixture was heated to the reflux temperature and reacted for 0.5 h. Then, the reaction mixture was cooled to the room temperature and concentrated to dry in a reduced pressure to obtain 1.8 g of a product as a pale yellow solid with the yield of 100%. m.p. 140-142° C.

reactant | homophthalic acid | 11.1 mmol, 2 g | C(CC=1C(C(=O)O)=CC=CC1)(=O)O | C9H8O4
reactant | acetic anhydride | 16.7 mmol, 1.6 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | Homophthalic Anhydride | 1.8 g, yield of 100% | C1(CC=2C(C(=O)O1)=CC=CC2)=O | C9H6O3
